US05356897
A mixture of 2,3-dihydro-6-(4-fluorophenyl)-2-oxo-7-(pyridin-4-yl)-1H-imidazo[1,2-b]pyrazole (50 mg) and diborane (0.34 mmol) in anhydrous tetrahydrofuran (5 ml) was refluxed under nitrogen atmosphere for 5 hours. After cooling of the reaction mixture, to the mixture was added 1N-hydrochloric acid (2 ml). The mixture was stirred at 60° C. for 30 minutes, cooled and neutralized with an aqueous saturated sodium bicarbonate solution. The separated oil was extracted with dichloromethane and the extract was washed with brine, dried and concentrated in vacuo. The residue was purified by thin layer chromatography on silica gel and the obtained crude solid was recrystallized from a mixture of diisopropyl ether and dichloromethane to yield 2,3-dihydro-6-(4-fluorophenyl)-7-(pyridin-4-yl)-1H-imidazo[1,2-b]pyrazole {14 mg).

reactant | 2,3-dihydro-6-(4-fluorophenyl)-2-oxo-7-(pyridin-4-yl)-1H-imidazo[1,2-b]pyrazole | 50 mg | FC1=CC=C(C=C1)C=1C(=C2N(N1)CC(N2)=O)C2=CC=NC=C2 | C16H11FN4O
reactant | diborane | 0.34 mmol | B#B | B2
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,3-dihydro-6-(4-fluorophenyl)-7-(pyridin-4-yl)-1H-imidazo[1,2-b]pyrazole | 14 mg | FC1=CC=C(C=C1)C=1C(=C2N(N1)CCN2)C2=CC=NC=C2 | C16H13FN4
